US04346088
2-(4-Chloro-2-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1 (b), from 2-(4-chloro-3-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methylthiazolidin-4-ol hydrobromide in boiling glacial acetic acid, with subsequent precipitation with diethyl ether. Colorless crystals from glacial acetic acid; melting point 231° C. (with decomposition).

reactant | 2-(4-chloro-3-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methylthiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)N=C1SCC(N1C)(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)C
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Chloro-2-methylphenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide | Br.ClC1=CC(=C(C=C1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)C | InChI=1S/C19H19Cl2N3O2S2.BrH/c1-12-9-14(20)6-8-16(12)22-19-24(4)17(11-27-19)13-5-7-15(21)18(10-13)28(25,26)23(2)3;/h5-11H,1-4H3;1H
